### PR TITLE
Feat: formalise Erdős Problem 359

### PR DESCRIPTION
**Pull request by Paul-Lez**
#511

### CODE REVIEW

File: FormalConjectures/ErdosProblems/359.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+def IsGoodFor (A : ℕ → ℕ) (n : ℕ) : Prop := A 0 = n ∧
+  ∀ j, IsLeast
+    {m : ℕ | ∀ a b, Finset.Icc a b ⊆ Finset.Iic j → m ≠ ∑ i ∈ Finset.Icc a b, A i}
+    (A <| j + 1)
+
+/-- Let $a_1< a_2 < ⋯ $ be an infinite sequence of integers such that $a_1=1$ and $a_{i+1}$ is the
+least integer which is not a sum of consecutive earlier $a_j$s. Show that $a_k / k \to \infty$. -/
+@[category research open, AMS 11]
+theorem erdos_359.parts.i (A : ℕ → ℕ) (hA : IsGoodFor A 1) :
+    atTop.Tendsto (fun k ↦ A k / k) atTop := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/359.lean]: I guess it doesn't matter since it goes to infinity anyway, but maybe cast to `Rat` or `Real` to avoid nat division?

File: FormalConjectures/ErdosProblems/359.lean [hunk 2]
```diff
@@ -0,0 +1,75 @@
...
+theorem erdos_359.variants.isGoodFor_1_low_values (A : ℕ → ℕ) (hA : IsGoodFor A 1) :
+    A '' (Set.Iic 7) = {1, 2, 4, 5, 8, 10, 14, 15} := by
+  sorry
+
+/-- Suppose sequence $A$ satisfies the following: `A 0 = n` and for all `j`, `A (j + 1)` is the
+smallest natural number that cannot be written as a sum of consecutive terms of `A 0, ..., A j`.
+Then $A$ is strictly increasing. -/
+@[category test, AMS 11]
+theorem erdos_359.variants.strictMono_of_isGoodFor (A : ℕ → ℕ) (n : ℕ) (hA : IsGoodFor A n) :
+    StrictMono A := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/359.lean]: I don't think this is true given the definition of `IsGoodFor` for `n > 1`. For example, if `n = 2`, then `A 0 = 2` and `A 1 = 1`. This assumption might need to go in the definition of `IsGoodFor` itself

File: FormalConjectures/ErdosProblems/359.lean (hunk 1 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/359.lean]: Good point, done!

File: FormalConjectures/ErdosProblems/359.lean (hunk 2 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/359.lean]: Good point - fixed!

File: FormalConjectures/ErdosProblems/359.lean [hunk 3]
```diff
@@ -0,0 +1,75 @@
...
+
+*Reference:* [erdosproblems.com/359](https://www.erdosproblems.com/359)
+-/
+
+namespace Erdos359
+
+open Filter Asymptotics
+
+/-- The predicate that `A 0 = n` and for all `j`, `A (j + 1)` is the smallest natural number that
+cannot be written as a sum of consecutive terms of `A 0, ..., A j` -/
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/359.lean]: This no longer matches the formal statement, we should include that `A (j + 1)` is greater than `A j` (or equivalently that `A` is strict mono

File: FormalConjectures/ErdosProblems/359.lean (hunk 2 above)
Comment (smmercuri) [reply FormalConjectures/ErdosProblems/359.lean]: This is basically by definition now, so I'm not sure it warrants inclusion as a test. Proof:
```lean
  intro a b hab
  induction hab with
  | refl => exact (hA.2 a).1.1
  | step _ a_ih => exact a_ih.trans (hA.2 _).1.1
```

Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/359.lean]: Good point, removed.

**Review by smmercuri — APPROVED** [review]
